US07563907B2
1-(5-carboxy-pentyl)-4-[(E)-2-(6-diethylamino-benzofuran-2-yl)-vinyl]-6-sulfonato-chinolinium betaine
0.2 mmol 6-diethylamino-benzofuran-2-carbaldehyde and 0.2 mmol 1-(5-carboxy-pentyl)-4-methyl-6-sulfonato-chinolinium betaine are converted according to the general directions given above. Column chromatography: SiO2 (RP18), eluent: methanol/water.

reactant | 6-diethylamino-benzofuran-2-carbaldehyde | 0.2 mmol | C(C)N(C1=CC2=C(C=C(O2)C=O)C=C1)CC | C13H15NO2
reactant | 1-(5-carboxy-pentyl)-4-methyl-6-sulfonato-chinolinium betaine | 0.2 mmol | C(=O)(O)CCCCC[N+]1=CC=C(C2=CC(=CC=C12)S(=O)(=O)[O-])C.C[N+](C)(C)CC(=O)O
solvent | methanol water | CO.O
product | 1-(5-carboxy-pentyl)-4-[(E)-2-(6-diethylamino-benzofuran-2-yl)-vinyl]-6-sulfonato-chinolinium betaine | C(=O)(O)CCCCC[N+]1=CC=C(C2=CC(=CC=C12)S(=O)(=O)[O-])\C=C\C=1OC2=C(C1)C=CC(=C2)N(CC)CC.C[N+](C)(C)CC(=O)O | InChI=1S/C29H32N2O6S.C5H11NO2/c1-3-30(4-2)23-11-9-22-18-24(37-28(22)19-23)12-10-21-15-17-31(16-7-5-6-8-29(32)33)27-14-13-25(20-26(21)27)38(34,35)36;1-6(2,3)4-5(7)8/h9-15,17-20H,3-8,16H2,1-2H3,(H-,32,33,34,35,36);4H2,1-3H3/p+1
